US07723331B2
b) 1-{2-[(1-Methylpiperidin-4-yl)oxy]pyridin-4-yl}methanamine
2-[(1-Methylpiperidin-4-yl)oxy]isonicotinonitrile (0.250 g, 1.51 mmol, from step a above) was dissolved in 10 mL of ammonia saturated MeOH and 0.200 g Raney Nickel was added. The mixture was hydrogenated at 5 atm overnight. The mixture was filtered and evaporated to give 0.242 g (95%) of crude product which was used in the following step. 1H NMR (300 MHz, CD3OD) δ 8.01 (d, 1H), 6.89 (d, 1H), 6.76 (bs, 1H), 5.00 (m, 1H), 3.77 (bs, 2H), 2.73 (m, 2H), 2.37 (m, 2H), 2.30 (s, 3H), 2.03 (m, 2H), 1.81 (m, 2H).

reactant | 2-[(1-Methylpiperidin-4-yl)oxy]isonicotinonitrile | CN1CCC(CC1)OC=1C=C(C#N)C=CN1 | C12H15N3O
solvent | ammonia | 10 mL | N | H3N
catalyst | Raney Nickel | 0.200 g | [Ni] | Ni
product | 1-{2-[(1-Methylpiperidin-4-yl)oxy]pyridin-4-yl}methanamine | 0.242 g, 95% | CN1CCC(CC1)OC1=NC=CC(=C1)CN | C12H19N3O
